US04976889
78 g of 2,2,6,6-tetramethyl-4-aminopiperidine in 250 ml of ethyl formate were refluxed for 10.5 hours. The precipitate which separated out was filtered off under suction, washed with a little petroleum ether and recrystallized from toluene. 4-(Formylamino)-2,2,6,6-tetramethylpiperidine was isolated as a colorless solid of melting point 153° C.

reactant | 2,2,6,6-tetramethyl-4-aminopiperidine | 78 g | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | ethyl formate | 250 ml | C(=O)OCC | C3H6O2
product | 4-(Formylamino)-2,2,6,6-tetramethylpiperidine | C(=O)NC1CC(NC(C1)(C)C)(C)C | C10H20N2O
